data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3540,4038,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[N-:9][O+:10]=[C:11]([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:9]([C:7]([O:6][CH3:5])=[O:8])[O:10][C:11]1([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,11.614685331105164,-40.76628053439316
4881,5565,[CH3:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:11]([CH3:10])=[O:12])([C:14]([CH3:15])=[O:16])[N:17]([CH3:18])[C:19]1([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,48.08882417349543,4.428192405441767
4670,5325,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18]([CH3:19])=[O:20])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:21](=[O:22])[O:23][CH3:24],water,298.15,14.0469609404325,-42.356062915007975
691,751,[CH3:11][C:12]#[N+:13][C-:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:12]([CH3:11])=[N:13][C:14]2([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,14.558500704002372,-34.6698599098455
2776,3086,[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH2:14][CH2:15][CH2:16]1.[N:17]#[C:18][C-:19]([O+:20]=[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([CH:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[O:20][C:19]2([C:18]#[N:17])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,6.265630530945582,-57.78281717055764
5156,5854,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[N:15]#[C:16][C-:17]([N+:18]#[C:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:17]([C:16]#[N:15])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:18]=[C:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,9.628577218188887,-21.021332752982488
4366,4987,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]([CH3:19])=[O:20])[o:21][c:22]1=[O:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[O:21][C:22]1=[O:23],water,298.15,24.70787202598953,-5.160581812214548
3302,3741,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[C:8]#[N+:9][C-:10]([CH3:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:10]([CH3:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:9]=[C:8]1[C:6]([CH3:5])=[O:7],water,298.15,21.13428482892308,-35.27886507369886
3477,3959,[CH2:10]=[O+:11][C-:12]([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:12]([C:13]#[N:14])([C:15](=[O:16])[NH:17][CH3:18])[O:11][CH2:10]1,water,298.15,9.125299835208065,-47.79500107128439
2892,3214,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C-:30]([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N+:37]([CH3:38])=[C:39]([C:40]#[N:41])[c:42]1[cH:43][cH:44][cH:45][cH:46][cH:47]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:30]([C:28]([NH:27][CH3:26])=[O:29])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:37]([CH3:38])[C:39]2([C:40]#[N:41])[c:42]1[cH:43][cH:44][cH:45][cH:46][cH:47]1,water,298.15,29.5895948435379,-28.57659969107052
